US08471005B2
232d) 1-[1-(3-Methoxy-4-nitro-phenyl)-piperidin-3-yl]-piperazine hydrobromide
A solution of 4-[1-(3-methoxy-4-nitro-phenyl)-piperidin-3-yl]-piperazine-1-carboxylic acid benzyl ester (300 mg, 0.66 mmol) in 4 M of hydrogen bromide in acetic acid (6 mL, 20 mmol) was heated at 40-45° C. for 45 min, then allowed to cool to room temperature while being stirred overnight. The orange homogenous solution was added dropwise to a vigorously stirred flask of EtOAc (50 mL) and the resulting precipitate was filtered, washed with EtOAc and dried in-vacuo to give 294 mg of an orange solid, used without further purification. MS=322 (M-HBr+1).

reactant | 4-[1-(3-methoxy-4-nitro-phenyl)-piperidin-3-yl]-piperazine-1-carboxylic acid benzyl ester | 0.66 mmol, 300 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1CN(CCC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C24H30N4O5
reactant | acetic acid | 20 mmol, 6 mL | C(C)(=O)O | C2H4O2
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
reactant | hydrogen bromide | 4 M | Br | BrH
product | 1-[1-(3-Methoxy-4-nitro-phenyl)-piperidin-3-yl]-piperazine hydrobromide | 294 mg | Br.COC=1C=C(C=CC1[N+](=O)[O-])N1CC(CCC1)N1CCNCC1 | InChI=1S/C16H24N4O3.BrH/c1-23-16-11-13(4-5-15(16)20(21)22)19-8-2-3-14(12-19)18-9-6-17-7-10-18;/h4-5,11,14,17H,2-3,6-10,12H2,1H3;1H
